US04060603
Diethyl benzyloxycarbonylaminomalonate (11.5 g, 38 mM) was dissolved in dry ethanol (50 ml) and added to a solution of sodium (150 mg) in dry ethanol (10 ml). Pent-2-enal (3.2 g 38 mM) in ethanol (10 ml) was added dropwise to the stirred mixture and the solution stirred for 1 hr. A solution of acetic acid (0.29 ml) in ethanol (1 ml) was then added and the solution hydrogenated for 2 hrs at atmospheric pressure using palladium on carbon (5%) as catalyst. The catalyst was removed by filtration and the filtrate evaporated. The residue was dissolved in chloroform and the solution washed with brine containing a little sodium bicarbonate, dried (Na2SO4) and evaporated. Distillation of the residue at 15 mm Hg gave 4-ethyl-5,5-dicarboethoxy-2-pyrroline (5.65 g) as a colourless oil b.p. 115°-120° (15 mm Hg) I.R. 1715, 1610 cm-1.

reactant | Diethyl benzyloxycarbonylaminomalonate | 38 mM, 11.5 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)OCC)C(=O)OCC | C15H19NO6
reactant | sodium | 150 mg | [Na] | Na
reactant | Pent-2-enal | 38 mM, 3.2 g | C(C=CCC)=O | C5H8O
reactant | acetic acid | 0.29 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 1 ml | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 4-ethyl-5,5-dicarboethoxy-2-pyrroline | 5.65 g | C(C)C1C=CNC1(C(=O)OCC)C(=O)OCC | C12H19NO4
